US06924400B2
890 mg (2 mmol) of 1-{5′-[3,4-bis(hydroxymethyl)benzyloxy]-2′-methyl-2-propylbiphenyl-4-yl}-1-propanone are placed in 40 ml of dry THF in a round-bottomed flask and under a stream of nitrogen. At 0° C., 4.1 ml (12 mmol) of ethylmagnesium bromide are added. The reaction medium is stirred at room temperature for 1 hour 30 minutes and then poured into saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and then evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (50/50) to give 550 mg (64%) of {5-[4′-(1-ethyl-1-hydroxypropyl)-6-methyl-2′-propylbiphenyl-3-yloxymethyl]-2-hydroxymethylphenyl}methanol in the form of white crystals with a melting point of 97° C.

reactant | 1-{5′-[3,4-bis(hydroxymethyl)benzyloxy]-2′-methyl-2-propylbiphenyl-4-yl}-1-propanone | 2 mmol, 890 mg | OCC=1C=C(COC=2C=CC(=C(C2)C2=C(C=C(C=C2)C(CC)=O)CCC)C)C=CC1CO | C28H32O4
reactant | ethylmagnesium bromide | 12 mmol, 4.1 ml | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | {5-[4′-(1-ethyl-1-hydroxypropyl)-6-methyl-2′-propylbiphenyl-3-yloxymethyl]-2-hydroxymethylphenyl}methanol | 550 mg, 64% | C(C)C(CC)(O)C1=CC(=C(C=C1)C1=CC(=CC=C1C)OCC=1C=CC(=C(C1)CO)CO)CCC | C30H38O4
